US05378718
3-Formylphenoxyacetic Acid
A solution of 3-hydroxybenzaldehyde and 0.3 mol of chloroacetic acid in 300 ml of 2N sodium hydroxide was refluxed for 6 hours. After cooling, the solution was acidified with hydrochloric acid and the precipitate was filtered off and crystallized from ethyl acetate/petroleum ether 60-80.

reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | chloroacetic acid | 0.3 mol | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 300 ml | [OH-].[Na+]
product | 3-Formylphenoxyacetic Acid | C(=O)C=1C=C(OCC(=O)O)C=CC1 | C9H8O4
